US09024027B2
To a solution of tert-butyl 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetate (15.7 g, 51.3 mmol) in a mixture of ethyl acetate (400 ml) and MeOH (200 ml), 10% w/w Pd/C (0.900 g) was added, and the mixture was hydrogenated in a Parr apparatus at 30 psi for 2 hours. The catalyst was filtered off, and the filtrate was evaporated to dryness affording tert-butyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate (14 g, 50.7 mmol, 99% yield, MS/ESI+ 276.9 [MH]+). This product was used in the following step without any further purification.

reactant | tert-butyl 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetate | 51.3 mmol, 15.7 g | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C14H14N2O6
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 200 ml | CO | CH4O
catalyst | Pd/C | 0.900 g | [Pd] | Pd
product | tert-butyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate | 50.7 mmol, 14 g, 99% yield | NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C14H16N2O4
